US07851463B2
49.3 N-[4-(1-Propyl-azetidin-3-yl)-phenyl]-4-trifluoromethoxybenzene sulfonamide
Following the same procedure as described in Example 47.2, N-[4-(1-propionyl-azetidin-3-yl)-phenyl]-4-trifluoromethoxy-benzenesulfonamide (170 mg, 0.39 mmol) in THF (20 ml) was then treated with 1M BH3.THF (3.9 ml). The crude material was chromatographied (ethyl acetate) to afford the title compound (86 mg, 52%) as a pale yellow oil.

reactant | N-[4-(1-propionyl-azetidin-3-yl)-phenyl]-4-trifluoromethoxy-benzenesulfonamide | 0.39 mmol, 170 mg | C(CC)(=O)N1CC(C1)C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F | C19H19F3N2O4S
reactant | BH3.THF | 1M, 3.9 ml | B.C1CCOC1
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-[4-(1-Propyl-azetidin-3-yl)-phenyl]-4-trifluoromethoxybenzene sulfonamide | 86 mg, 52% | C(CC)N1CC(C1)C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F | C19H21F3N2O3S
